US07973181B2
Methyl 4-methyl-3-nitrobenzoate (5 g, 25.6 mmol) was dissolved in DMF (25 mL, 5 vol) and to this was added N,N-dimethylformamide dimethylacetal (4.4 mL, 33.3 mmol). The mixture was allowed to stir at 140° C. for 3 h. The resulting deep red solution was allowed to cool and concentrated under vacuum. The residue was triturated with methanol and filtered. The filtrate was washed with methanol and dried on the sinter to yield 4-(2-dimethylamino-vinyl)-3-nitrobenzoic acid methyl ester (5.2 g, 80%). 1H NMR (300 MHz, DMSO), δ: 2.98 (6H, s, 2×CH3), 3.87 (3H, s, CH3), 5.58 (1H, m, CH), 7.72-7.83 (3H, m, ArH), 8.32 (1H, m, CH).

reactant | Methyl 4-methyl-3-nitrobenzoate | 25.6 mmol, 5 g | CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO4
reactant | N,N-dimethylformamide dimethylacetal | 33.3 mmol, 4.4 mL | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-(2-dimethylamino-vinyl)-3-nitrobenzoic acid methyl ester | 5.2 g, 80% | COC(C1=CC(=C(C=C1)C=CN(C)C)[N+](=O)[O-])=O | C12H14N2O4
